US06670510B2
Preparation of Crude 2-Hydroxy-5-Methoxybenzaldehyde
A mixture of 600 g of acetonitrile, 186.2 g of 4-methoxyphenol (1.5 moles) and 214 g (2.25 moles) of anhydrous magnesium chloride was warmed to 45° C. and 227.4 g (2.25 moles) of triethylamine was added dropwise at that temperature. Paraformaldehyde (150 g, 4.75 moles) was then added and the reaction was heated to reflux. Methanol was removed over 3 hours by distillation, using a 10-inch column packed with Penn-State packing. The weight of the methanol removed (vapor temperature 60-65° C.) was 130 g. The solution was cooled to 60° C. and added to 900 mL of water. The solution was acidified with 240 mL of conc. HCl and extracted with 150 g of ethyl acetate. The ethyl acetate solution was washed once with 300 mL of tap water, clarified through diatomaceous earth, and stripped on a rotary evaporator at 10 mm pressure and 85° C. bath temperature. The weight of the product was 206.5 g, the liquid chromatograph area percent was 86%, and liquid chromatograph weight percent was 82%. The overall assay yield was 74%.

reactant | 4-methoxyphenol | 1.5 moles, 186.2 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | magnesium chloride | 2.25 moles, 214 g | [Cl-].[Mg+2].[Cl-]
reactant | triethylamine | 2.25 moles, 227.4 g | C(C)N(CC)CC | C6H15N
reactant | Paraformaldehyde | 4.75 moles, 150 g | C=O | CH2O
solvent | acetonitrile | 600 g | C(C)#N | C2H3N
product | 2-Hydroxy-5-Methoxybenzaldehyde | yield was 74% | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
